US05430022
Boc-L-Leu-OH (1.30 g), HCl.H-D-Trp(CH3)-OBzl (1.76 g), WSCD (950 mg) and HOBT (827 mg) in DMF (30 ml) was reacted at 5° C. overnight in a similar manner to that of Preparation 1-1) to give Boc-L-Leu-D-Trp(CH3)-OBzl (2.48 g).

reactant | Boc-L-Leu-OH | 1.30 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HCl | Cl | ClH
reactant | H-D-Trp(CH3)-OBzl | 1.76 g | N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)OCC1=CC=CC=C1 | C19H20N2O2
reactant | HOBT | 827 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Boc-L-Leu-D-Trp(CH3)-OBzl | 2.48 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C30H39N3O5
